US08633173B2
[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine was prepared from 4-{4-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (0.342 g, 0.603 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.239 g, 85%). MP=104-108° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.54 (s, 1H), 8.79 (d, 1H), 7.95 (s, 1H), 7.82 (d, 1H), 7.62 (d, 1H), 7.55 (d, 2H), 7.35 (d, 1H), 7.05 (m, 3H), 3.85 (s, 3H), 3.00 (m, 2H), 2.55 (br m, 4H), 1.65 (m, 2H), 1.50 (m, 2H): MS=468 (MH)+.

reactant | 4-{4-[8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.603 mmol, 0.342 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C30H32F3N5O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C25H24F3N5O
